US09382236B2
5-[4-[(2-Chloropyridin-3-yl)carbonylamino]phenyl]-8,9,10,11-tetrahydro-1H-[1,4]diazepino[2,3-f]isoquinoline-2,4(3H,5H)-dione
5-[4-[(2-Chloropyridin-3-yl)carbonylamino]phenyl]-1H-[1,4]diazepino[2,3-f]isoquinoline-2,4(3H,5H)-dione (10 mg, 0.022 mmol) was dissolved in acetic acid (0.4 mL), the solution was added with sodium borohydride (64 mg, 0.11 mmol), the mixture was stirred at room temperature for 2 hours, and then further added with sodium borohydride (64 mg, 0.11 mmol), and the mixture was stirred at room temperature for 2 hours. This reaction mixture was added with water, made basic with sodium carbonate, and extracted three times with chloroform, and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was washed with ethyl acetate to give the title compound (7 mg, yield 68%) as pale brown crystals.

reactant | 5-[4-[(2-Chloropyridin-3-yl)carbonylamino]phenyl]-1H-[1,4]diazepino[2,3-f]isoquinoline-2,4(3H,5H)-dione | 0.022 mmol, 10 mg | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)N1C(CC(NC2=C3C=CN=CC3=CC=C21)=O)=O | C24H16ClN5O3
reactant | sodium borohydride | 0.11 mmol, 64 mg | [BH4-].[Na+]
reactant | sodium borohydride | 0.11 mmol, 64 mg | [BH4-].[Na+]
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 0.4 mL | C(C)(=O)O | C2H4O2
product | 5-[4-[(2-Chloropyridin-3-yl)carbonylamino]phenyl]-8,9,10,11-tetrahydro-1H-[1,4]diazepino[2,3-f]isoquinoline-2,4(3H,5H)-dione | 7 mg, yield 68% | ClC1=NC=CC=C1C(=O)NC1=CC=C(C=C1)N1C(CC(NC2=C3CCNCC3=CC=C21)=O)=O | C24H20ClN5O3
